US06936617B2
Diisobutylaluminum hydride (1M in THF, 11 mL, 11 mmol) is added to a solution of 5-ethyl-imidazo[2,1-b]thiazole-6-carboxylic acid ethyl ester (800 mg, 3.6 mmol) in THF (20 mL). The mixture is stirred at room temperature for 0.5 h. HCl (10%, 2 mL) is added, and the mixture is stirred for an additional 5 min. The mixture is neutralized by the addition of sodium hydroxide (2 N) until pH is above 10 and then extracted with ethyl acetate (3×20 mL). The combined organic layers are dried and solvent removed to give 5-ethyl-6-hydroxymethyl-imidazo[2,1-b]thiazole as a solid. Step 3. Preparation of 6-chloromethyl-5-ethyl-imidazo[2,1-b]thiazole

reactant | Diisobutylaluminum hydride | 11 mmol, 1M, 11 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 5-ethyl-imidazo[2,1-b]thiazole-6-carboxylic acid ethyl ester | 3.6 mmol, 800 mg | C(C)OC(=O)C=1N=C2SC=CN2C1CC | C10H12N2O2S
reactant | HCl | 2 mL | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-ethyl-6-hydroxymethyl-imidazo[2,1-b]thiazole | C(C)C1=C(N=C2SC=CN21)CO | C8H10N2OS
